US06278017B1
Cycle 1: A reactor was charged with N-acetyliminodiacetic acid monohydrate (17.0 g), water (5 g), phosphorous acid (11.39 g) and 98% sulfuric acid (15 g). The mixture was heated to 110° C. and 42.2% formaldehyde (5.6 mL) was added drop wise over a one hour period. After another 1¾ hour at 110° C. the mixture was cooled to 25° C. The mixture was filtered and the solid was washed with water to give 12.46 g of N-(phosphonomethyl)iminodiacetic acid.

reactant | N-acetyliminodiacetic acid monohydrate | 17.0 g | O.C(C)(=O)N(CC(=O)O)CC(=O)O
reactant | phosphorous acid | 11.39 g | P(O)(O)O | H3O3P
reactant | sulfuric acid | 15 g | S(O)(O)(=O)=O | H2O4S
reactant | formaldehyde | 5.6 mL | C=O | CH2O
solvent | water | 5 g | O | H2O
product | N-(phosphonomethyl)iminodiacetic acid | 12.46 g | P(=O)(O)(O)CN(CC(=O)O)CC(=O)O | C5H10NO7P
